US05175301
In 100 ml of acetonitrile was dissolved 4.0 g (0.026 mole) of methyl 6-hydroxynicotinate followed by addition of 0.9 ml of triethylamine. The mixture was refluxed and 3.7 ml of phosphorus oxychloride was added dropwise with stirring over a period of 15 minutes. The mixture was further refluxed for 3 hours. After cooling, the acetonitrile was distilled off and the residue was diluted with 20 ml of water and adjusted to pH about 8 with a saturated aqueous solution of sodium hydrogen carbonate. The resulting crystals are collected by filtration, rinsed with water and dried to give 3.6 g of methyl 6-chloronicotinate as pale yellow needles.

reactant | methyl 6-hydroxynicotinate | 0.026 mole, 4.0 g | OC1=NC=C(C(=O)OC)C=C1 | C7H7NO3
reactant | triethylamine | 0.9 ml | C(C)N(CC)CC | C6H15N
reactant | phosphorus oxychloride | 3.7 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | methyl 6-chloronicotinate | 3.6 g | ClC1=NC=C(C(=O)OC)C=C1 | C7H6ClNO2
